US03992540
A mixture of 9.2 g of 4-hydroxy-8-chloro-3-quinoline-carboxylic acid in 100ml of thionyl chloride was stirred at room temperature for 24 hours and wasthen vacuum filtered. The recovered precipitate was washed to obtain 0.4 g of 4 -hydroxy-8-chloro-3-quinoline-carboxylic acid chloride melting at 258° C.

reactant | 4-hydroxy-8-chloro-3-quinoline-carboxylic acid | 9.2 g | OC1=C(C=NC2=C(C=CC=C12)Cl)C(=O)O | C10H6ClNO3
reactant | thionyl chloride | 100ml | S(=O)(Cl)Cl | Cl2OS
product | 4 -hydroxy-8-chloro-3-quinoline-carboxylic acid chloride | 0.4 g | OC1=C(C=NC2=C(C=CC=C12)Cl)C(=O)Cl | C10H5Cl2NO2
